US04187099
Preparation of 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, Isopropyl Amide.
To a solution of 1.0 g (0.0034 mol) of 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride and 20 cc of THF was added 0.45 g (2.1 equivalents) of isopropylamine. The reaction mixture was heated on a steam bath for 20 minutes. The isopropylamine hydrochloride was filtered off and the filtrate was concentrated to a solid. The solid was washed with H2O, dissolved in THF, dried (CaSO4), and concentrated under vacuum to give 0.94 g of solid. The solid was recrystallized from EtOAc/hexane to give 0.4 g white solid, m.p. 166°-167°. The filtrates gave another 0.3 g of white solid, m.p. 166.5°-168°. (Total yield=88%).

reactant | 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride | 0.0034 mol, 1.0 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)Cl)(F)F | C11H5ClF3NOS
reactant | isopropylamine | 0.45 g, 2.1 equivalents | C(C)(C)N | C3H9N
solvent | THF | 20 cc | C1CCOC1 | C4H8O
product | 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, Isopropyl Amide | 0.94 g | C(C)(C)NC(=O)C=1C(=NSC1)C=1C=C(C=CC1)C(F)(F)F | C14H13F3N2OS
